US07713994B2
(4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.12 g, 0.35 mmol), 3-amino-6-(4-methyl-piperazin-1-yl)-pyridin-2-ol (0.15 g, contaminated with triethylammonium trifluoroacetate) were coupled in N,N-dimethylformamide (3 mL) with triethylamine (0.27 mL). The mixture is heated in a 100° C. oil bath for three hours. The reaction mixture is purified by reverse phase HPLC to give (4Z)-4-({[2-hydroxy-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione.2 trifluoroacetic acid salt (18 mg, 7.0%).

reactant | (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.35 mmol, 0.12 g | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | 3-amino-6-(4-methyl-piperazin-1-yl)-pyridin-2-ol | 0.15 g | NC=1C(=NC(=CC1)N1CCN(CC1)C)O | C10H16N4O
reactant | triethylamine | 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[2-hydroxy-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | OC1=NC(=CC=C1N\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)N1CCN(CC1)C | C20H20IN5O3
